US07816371B2
c. (R)-3,N-Dimethyl-2-(5-nitro-1-oxo-1H-isoquinolin-2-yl)-butyramide
(R)-3-Methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoic acid (2 g, 0.007 mol), methylamine (7 mL, 0.01 mol), 1-hydroxybenzotriazole hydrate (2 g, 0.01 mol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (3 g, 0.01 mol), N,N-diisopropylethylamine (4 g, 0.03 mol) were stirred in methylene chloride (20 mL, 0.3 mol) at room temperature for 16 hours. The reaction mixture was diluted with CH2Cl2 (200 mL), washed with sat. NaHCO3, dried over MgSO4, filtered, purified via flash chromatoraphy (40 g of silica gel, 0-50% EtOAc/Hexane) to yield a yellow solid. m/z 304.2 (M+H)+.

reactant | (R)-3-Methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoic acid | 0.007 mol, 2 g | CC([C@H](C(=O)O)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)C | C14H14N2O5
reactant | methylamine | 0.01 mol, 7 mL | CN | CH5N
reactant | 1-hydroxybenzotriazole hydrate | 0.01 mol, 2 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.01 mol, 3 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.03 mol, 4 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.3 mol, 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-3,N-Dimethyl-2-(5-nitro-1-oxo-1H-isoquinolin-2-yl)-butyramide | CC([C@H](C(=O)NC)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)C | C15H17N3O4
